US08378095B2
To a stirred solution of ethyl 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylate (0.030 g, 0.08 mmol) in THF and H2O (1:1, 3 mL) was added lithium hydroxide hydrate (0.008 g, 0.33 mmol) and the reaction mixture stirred at room temperature for 2.5 hours. The THF was removed in vacuo and 1N aqueous HCl was added and the resultant precipitate collected by filtration to afford 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylic acid (0.027 g, 0.08 mmol, 98%) as a white solid which was used without further purification. LCMS (1) Rt: 1.24 min; m/z (ES+) 332.

reactant | ethyl 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylate | 0.08 mmol, 0.030 g | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C1=CC=C(C=C1)OC)C(=O)OCC | C19H15F2NO4
reactant | lithium hydroxide hydrate | 0.33 mmol, 0.008 g | O.[OH-].[Li+]
solvent | THF | C1CCOC1 | C4H8O
solvent | H2O | 3 mL | O | H2O
product | 2-(2,6-difluorophenyl)-4-(4-methoxyphenyl)oxazole-5-carboxylic acid | 0.08 mmol, 0.027 g, 98% | FC1=C(C(=CC=C1)F)C=1OC(=C(N1)C1=CC=C(C=C1)OC)C(=O)O | C17H11F2NO4
